US05124336
24.8 g of 2-amino-5-fluoronitrobenzene and 27.6 g of 4-methylthiobenzyl chloride are mixed and 14.4 g of anhydrous sodium acetate and 0.3 g of iodine are added. The mixture is heated at 120° C. for 12 hours, with stirring, and is then cooled, taken up with a dilute solution of hydrochloric acid and extracted with ethyl acetate. The organic phase is washed with dilute hydrochloric acid and then with water, dried over magnesium sulfate and evaporated to dryness. The oil obtained crystallizes from isopropyl ether to give 23.8 g of 2-(4-methylthiobenzyl)amino-5-fluoronitrobenzene in the form of crystals melting at 117° C.

reactant | 2-amino-5-fluoronitrobenzene | 24.8 g | NC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H5FN2O2
reactant | 4-methylthiobenzyl chloride | 27.6 g | CSC1=CC=C(CCl)C=C1 | C8H9ClS
reactant | sodium acetate | 14.4 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | iodine | 0.3 g | II | I2
product | 2-(4-methylthiobenzyl)amino-5-fluoronitrobenzene | 23.8 g | CSC1=CC=C(CNC2=C(C=C(C=C2)F)[N+](=O)[O-])C=C1 | C14H13FN2O2S
